US05650428
The procedure described in Example 125 was repeated, except that ((RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide (500 mg) was reacted with phenol (167 mg) to obtain (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenoxypropanamide (425.22 mg).

reactant | (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-methanesulfonyloxypropanamide | 500 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COS(=O)(=O)C | C20H23BrN2O8S2
reactant | phenol | 167 mg | C1(=CC=CC=C1)O | C6H6O
product | (RS)-2-(4-bromobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)-3-phenoxypropanamide | 425.22 mg | BrC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)COC1=CC=CC=C1 | C25H25BrN2O6S
